US07919621B2
Step 1: 7-Iodo-2-methyl-imidazo[1,2-a]quinoline (1m)
6-Iodo-quinolin-2-ylamine (270 mg, 1.0 mmol), chloroacetone (111 mg, 1.2 mmol), sodium bicarbonate (252 mg, 3.0 mmol), and catalytic tetrabutylammonium iodide were dissolved in 1,4-dioxane and water, and stirred at 80° C. overnight. The reaction was cooled to room temperature and concentrated, and the residue was purified by preparative HPLC to give the desired compound, 1m.

reactant | 6-Iodo-quinolin-2-ylamine | 1.0 mmol, 270 mg | IC=1C=C2C=CC(=NC2=CC1)N | C9H7IN2
reactant | chloroacetone | 1.2 mmol, 111 mg | ClCC(C)=O | C3H5ClO
reactant | sodium bicarbonate | 3.0 mmol, 252 mg | C([O-])(O)=O.[Na+]
catalyst | tetrabutylammonium iodide | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 7-Iodo-2-methyl-imidazo[1,2-a]quinoline | IC=1C=C2C=CC=3N(C2=CC1)C=C(N3)C | C12H9IN2
